US07745642B2
(±)N-[2-(Dimethylamino)-3-hydroxy-2-methyl-1-phenylpropyl]-2,3-dimethylbenzamide diastereomeric mixture
A solution of (±)-N-(2-(dimethylamino)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-phenylpropyl)-2,3-dimethylbenzamide D49 (56 mg; 0.12 mmol) in THF (5 ml) was treated with a solution of tetrabutylammonium fluoride (1.0M solution in THF; 0.2 ml, 0.2 mmol) and the mixture stirred at room temperature overnight. The mixture was poured directly onto a chromatography column (Flashmaster II; eluent 0-100% ethyl acetate/pentane) to afford the title compound (38 mg; 63%). 1H NMR (CDCl3) δ: 0.73 and 1.14 (3H, 2×s), 1.70-2.50 (1H, br s), 2.26 (6H, q), 2.38 and 2.48 (6H, 2×s), 3.17, 3.39, and 3.55 (2H, 3×d), 5.26 and 5.46 (1H, 2×d), 6.83 and 7.89 (1H, 2×br d), 7.07-7.46 (8H, br m). Mass spectrum (Electrospray LC/MS), API+: Found 341 (MH+), C21H28N2O2Si requires 340. Ret. time 1.71 and 1.76 min.

reactant | (±)-N-(2-(dimethylamino)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-phenylpropyl)-2,3-dimethylbenzamide | CN(C(C(C1=CC=CC=C1)NC(C1=C(C(=CC=C1)C)C)=O)(CO[Si](C)(C)C(C)(C)C)C)C | C27H42N2O2Si
reactant | tetrabutylammonium fluoride | 0.2 mmol, 1.0M, 0.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate pentane | C(C)(=O)OCC.CCCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (±)N-[2-(Dimethylamino)-3-hydroxy-2-methyl-1-phenylpropyl]-2,3-dimethylbenzamide | 38 mg, 63% | CN(C(C(C1=CC=CC=C1)NC(C1=C(C(=CC=C1)C)C)=O)(CO)C)C | C21H28N2O2
